US04889530
Glycidyl methacrylate (4.8g, 34 mmol) and 4-methoxyphenol (0.13 g) were added to a solution of N,N'-bis-(2-hydroxypropyl)ethylenediamine (IV-a) (3.0 g, 17 mmol) in 80 mL of methanol at 0° C. The mixture was brought to room temperature and maintained for eight days, followed by heating for 24 hours at 30° C. A quantitative yield of a viscous, slightly brown liquid was obtained after removal of the solvent. The product was further purified by dissolving the liquid in water followed by the addition of sodium chloride to saturation. The oil layer was separated, dissol ved in CH2Cl2 and dried over magnesium sulfate. Filtration and removal of solvent yielded Quadrol dimethylacrylate (VII-a) [yield 48 percent: IR(neet):3350(broad OH); 1700 (C=O); 1620(C=C); NMR (CDCl3): δ6.1(s,2H); 5.6(s,2H); 3.8(broad m,8H); 2.6(broad m,12); 2.0(s,6H); 1.1(d,6H)].

reactant | Glycidyl methacrylate | 34 mmol, 4.8g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | 4-methoxyphenol | 0.13 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | N,N'-bis-(2-hydroxypropyl)ethylenediamine | 17 mmol, 3.0 g | OC(CNCCNCC(C)O)C | C8H20N2O2
solvent | methanol | 80 mL | CO | CH4O
product | Quadrol dimethylacrylate | yield 48 percent | CC(CN(CCN(CC(C)O)CC(C)O)CC(C)O)O.CC(=CC(=O)[O-])C | InChI=1S/C14H32N2O4.C5H8O2/c1-11(17)7-15(8-12(2)18)5-6-16(9-13(3)19)10-14(4)20;1-4(2)3-5(6)7/h11-14,17-20H,5-10H2,1-4H3;3H,1-2H3,(H,6,7)/p-1
